US07915250B2
To a solution of [1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-hydroxyazetidin-3-yl]acetaldehyde (38.0 mg, 0.078 mmol) in 1,2-dichloroethane (1 mL) was added isopropylamine (27 μL, 0.31 mmol) followed by sodium triacetoxyborohydride (26 mg, 0.12 mmol). The mixture was stirred for 3 h before quenching with 1 drop of concentrated HCl. The quenched mixture was concentrated to dryness, and then purified by preparative HPLC to provide 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-{2-[(1-methylethyl)amino]ethyl}azetidin-3-ol (21.5 mg) as a pale yellow solid. 1H NMR (400 MHz, d6-DMSO): δ 8.54 (s, 1H), 7.57 (dd, 1H), 7.38 (dd, 1H), 7.31 (m, 1H), 7.17 (m, 1H), 6.67 (m, 1H), 4.02 (m, 1H), 3.89 (m, 2H), 3.71 (m, 1H), 2.70 (m, 1H), 2.63 (m, 2H), 1.86 (s, 3H), 1.75 (m, 2H), 0.97 (d, 6H); MS (EI) for C21H23F3IN3O2: 534 (MH+).

reactant | [1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-hydroxyazetidin-3-yl]acetaldehyde | 0.078 mmol, 38.0 mg | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)(O)CC=O)NC1=C(C=C(C=C1)I)F | C18H14F3IN2O3
reactant | isopropylamine | 0.31 mmol, 27 μL | C(C)(C)N | C3H9N
reactant | sodium triacetoxyborohydride | 0.12 mmol, 26 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 1 mL | ClCCCl | C2H4Cl2
product | 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-{2-[(1-methylethyl)amino]ethyl}azetidin-3-ol | 21.5 mg | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)(O)CCNC(C)C)NC1=C(C=C(C=C1)I)F | C21H23F3IN3O2
